US07507740B2
(v) Production of 2-{2-[4-({3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}amino)-6-methyl-5H-pyrrolo[3,2-d]pyrimidin-5-yl]ethoxy}ethanol
2-{2-[4-({3-Chloro-4-[(3-fluorobenzyl)oxy]phenyl}amino)-6-methyl-5H-pyrrolo[3,2-d]pyrimidin-5-yl]ethoxy}ethyl benzoate (90.0 mg) was dissolved in methanol (1 mL), 1N aqueous sodium hydroxide solution (0.3 mL) was added, and the mixture was stirred at room temperature for 5 hrs. The reaction mixture was neutralized with 1N hydrochloric acid, and the mixture was extracted with ethyl acetate. The organic layer washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was separated and purified by basic silica gel column chromatography (eluent, hexane:ethyl acetate=33:67→0:100) to give the title compound (43.9 mg) as a pale-yellow powder.

reactant | 2-{2-[4-({3-Chloro-4-[(3-fluorobenzyl)oxy]phenyl}amino)-6-methyl-5H-pyrrolo[3,2-d]pyrimidin-5-yl]ethoxy}ethyl benzoate | 90.0 mg | C(C1=CC=CC=C1)(=O)OCCOCCN1C(=CC=2N=CN=C(C21)NC2=CC(=C(C=C2)OCC2=CC(=CC=C2)F)Cl)C | C31H28ClFN4O4
reactant | sodium hydroxide | 1N, 0.3 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | methanol | 1 mL | CO | CH4O
product | 2-{2-[4-({3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}amino)-6-methyl-5H-pyrrolo[3,2-d]pyrimidin-5-yl]ethoxy}ethanol | 43.9 mg | ClC=1C=C(C=CC1OCC1=CC(=CC=C1)F)NC=1C2=C(N=CN1)C=C(N2CCOCCO)C | C24H24ClFN4O3
